.title kicad schematic

.include lm_741.sub
r2 net-_r2-pad1_ output 8.2k
* u2 output plot_v2
c2 output gnd 0.0078u
v-1 net-_x1-pad7_ gnd 15
x1 unconnected-_x1-pad1_ net-_r3-pad2_ net-_c1-pad2_ net-_x1-pad4_ unconnected-_x1-pad5_ net-_r2-pad1_ net-_x1-pad7_ unconnected-_x1-pad8_ lm_741
r3 gnd net-_r3-pad2_ 10k
r4 net-_r2-pad1_ net-_r3-pad2_ 10k
c1 input net-_c1-pad2_ 0.0053u
r1 gnd net-_c1-pad2_ 12k
vin1 input gnd  ac 1 0
v+1 gnd net-_x1-pad4_ 15
* u1 input plot_v1
.ac lin 10000 0Hz 10KHz

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(output,plot_v2)
plot v(input)
.endc
.end
